US04213978
Preparation of reactant L-cysteine decyl ester hydrochloride:
L-Cysteine 157.4 g was added to 250 ml of decyl alcohol saturated with dry HCl. The mixture was heated to 150° for 6 h. The solution was cooled and was mixed with equal volume of ethyl acetate. The solution was cooled in a dry ice bath to give crystals. The crystals were filtered and were recrystallized from ethyl acetate, mp 96°-99° C., yield 100 g, IR (KBr) 1745 cm-1 ; NMR (CDCl3) δ.

reactant | L-Cysteine | 157.4 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | decyl alcohol | 250 ml | C(CCCCCCCCC)O | C10H22O
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | L-cysteine decyl ester hydrochloride | Cl.C(CCCCCCCCC)OC([C@@H](N)CS)=O | InChI=1S/C13H27NO2S.ClH/c1-2-3-4-5-6-7-8-9-10-16-13(15)12(14)11-17;/h12,17H,2-11,14H2,1H3;1H/t12-;/m0./s1
